US08669255B2
To a solution of (2S,4R)-methyl 4-hydroxypyrrolidine-2-carboxylate hydrochloride (1 g, 5.51 mmol; Chem Impex) and triethylamine (1.919 mL, 13.77 mmol) in methanol (2 mL) was added 2-bromoacetonitrile (0.391 mL, 5.78 mmol) dropwise. The reaction was stirred at room temperature for 1 hour and then concentrated in vacuo. The residue was partitioned between water (10 mL) and dichloromethane (10 mL), and the organic layer was separated and concentrated. The resulting crude oil was purified by flash chromatography using an Agilent Technologies SuperFlash SF15-12 g cartridge eluting with a gradient of 10-100% ethyl acetate/hexanes over 15 minutes to isolate (2S,4R)-methyl 1-(cyanomethyl)-4-hydroxypyrrolidine-2-carboxylate (375 mg, 2.036 mmol, 37.0% yield) as an oil that solidified on standing. 1H NMR (300 MHz, CDCl3) δ ppm 4.50 (m, 1H), 3.92 (d, J=17.6 Hz, 1H), 3.76 (s, 3H), 3.73 (d, J=17.6 Hz, 1H), 3.71 (t, J=10.3 Hz, 1H), 3.47 (dd, J=10.0, 5.6 Hz, 1H), 2.72 (dd, J=10.0, 4.1 Hz, 1H), 2.23 (dddd, J=13.5, 10.0, 8.2, 5.5 Hz, 2H), 1.67 (d, J=4.6 Hz, 1H); MS (ESI+) m/z 185 (M+H)+.

reactant | (2S,4R)-methyl 4-hydroxypyrrolidine-2-carboxylate hydrochloride | 5.51 mmol, 1 g | Cl.O[C@@H]1C[C@H](NC1)C(=O)OC
reactant | triethylamine | 13.77 mmol, 1.919 mL | C(C)N(CC)CC | C6H15N
reactant | 2-bromoacetonitrile | 5.78 mmol, 0.391 mL | BrCC#N | C2H2BrN
solvent | methanol | 2 mL | CO | CH4O
product | (2S,4R)-methyl 1-(cyanomethyl)-4-hydroxypyrrolidine-2-carboxylate | 2.036 mmol, 375 mg, 37.0% yield | C(#N)CN1[C@@H](C[C@H](C1)O)C(=O)OC | C8H12N2O3
